US04743290
3-Cyanothiophene-2-sulfonamide
Ten grams of 3-cyano-N-(1,1-dimethylethyl)thiophene-2-sulfonamide was dissolved in 500 mL of trifluoroacetic acid and stirred overnight at room temperature. After removal of the solvent by evaporation, the residue was dissolved in ethyl acetate and washed with four portions of 100 mL of water followed by saturated sodium chloride. After drying over magnesium sulfate, the solvent was evaporated in vacuo to yield 6.42 g of white solid, m.p. 152°-155°. It showed peaks by Nuclear Magnetic Resonance consistent for the desired structure.

reactant | 3-cyano-N-(1,1-dimethylethyl)thiophene-2-sulfonamide | Ten grams | C(#N)C1=C(SC=C1)S(=O)(=O)NC(C)(C)C | C9H12N2O2S2
solvent | trifluoroacetic acid | 500 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Cyanothiophene-2-sulfonamide | 6.42 g | C(#N)C1=C(SC=C1)S(=O)(=O)N | C5H4N2O2S2
